US08530460B2
1-Bromo-4-cyclopropylmethoxybenzene
5.0 g (28.9 mmol) 4-bromophenol, 3.93 g (43.4 mmol) (chloromethyl)cyclopropane and 7.99 g (57.8 mmol) K2CO3 are added to 10 mL DMF and stirred at 80° C. over night. Afterwards the reaction mixture is diluted with water and extracted with DCM. The organic layer is dried with MgSO4 and the solvent is removed in vacuo.

reactant | 4-bromophenol | 28.9 mmol, 5.0 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | (chloromethyl)cyclopropane | 43.4 mmol, 3.93 g | ClCC1CC1 | C4H7Cl
reactant | K2CO3 | 57.8 mmol, 7.99 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Bromo-4-cyclopropylmethoxybenzene | BrC1=CC=C(C=C1)OCC1CC1 | C10H11BrO
